US06177440B1
A mixture of methyl 2-bromo-3-aminobenzoate (13.2 g, 60.0 mM) and 1,3-cyclohexanedione (8.4 g, 75 mM) was heated at 125° C. under a stream of nitrogen for 4 h. The resultant solid was purified by HPLC on silica gel (elution with methylene chloride/ethyl acetate) to afford 17.2 g (88%) of 3-(3-carbomethoxy-2-bromoanilino)cyclohex-2-en-1-one as a tan foam. 1H NMR (DMSO-d6) δ 8.75 (s, 1H), 7.6-7.4 (m, 3H), 4.65 (s, 1H), 3.85 (s, 3H), 2.6 (t, 2H, J=6 Hz), 2.15 (t, 2H, J=6 Hz), and 1.9 (m, 2H). IR (CHCl3, cm−1) 3400, 3004, 2954, 1732, 1607, 1588, 1573, 1513, 1464, 1436, 1412, 1308, 1249, 1177, and 1144. MS (ES) m/e 322, 324, 326.

reactant | methyl 2-bromo-3-aminobenzoate | 60.0 mM, 13.2 g | BrC1=C(C(=O)OC)C=CC=C1N | C8H8BrNO2
reactant | 1,3-cyclohexanedione | 75 mM, 8.4 g | C1(CC(CCC1)=O)=O | C6H8O2
product | 3-(3-carbomethoxy-2-bromoanilino)cyclohex-2-en-1-one | 17.2 g, 88% | C(=O)(OC)C=1C(=C(NC2=CC(CCC2)=O)C=CC1)Br | C14H14BrNO3
